US09127164B2
(2) 2-Acetamidyl-9-aminoacridine
To a 5 mL rbf equipped with condenser and a nitrogen bubbler were charged 2,9-diaminoacridine (100 mg, 0.48 mmol) and acetic acid (300 μL). To the resulting solution was added acetic anhydride (47 μL, 0.50 mmol). The reaction mixture was heated to reflux for 10 min under a nitrogen atmosphere. LCMS showed only formation of expected product and some traces of starting material. The reaction mixture was concentrated to dryness. NMR showed desired product, alkanes impurities coming from starting material sample and acetic acid left. The residue was dissolved in water and washed with DCM to remove the alkanes impurities. The aqueous layer was lyophilised to afford 2-acetamidyl-9-aminoacridine as a brown solid (130 mg, quantitative). Analyses by 1H NMR and LCMS conformed to structure.

reactant | 2,9-diaminoacridine | 0.48 mmol, 100 mg | NC1=CC2=C(C3=CC=CC=C3N=C2C=C1)N | C13H11N3
reactant | acetic anhydride | 0.50 mmol, 47 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 300 μL | C(C)(=O)O | C2H4O2
product | 2-Acetamidyl-9-aminoacridine | C(C)(=O)NC1=CC2=C(C3=CC=CC=C3N=C2C=C1)N | C15H13N3O
